US07786114B2
The product is prepared by following the procedure described in example 34 stage (j), starting with 0.3 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde and 0.348 g of 4-amino-1-methylpiperidine instead of the cyclopropylamine used in example 34 stage (j). After purification by flash-pack chromatography (SiO2, dichloromethane/methanol 98/02 by volume as eluents), 0.28 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(1-methylpiperidin-4-yl)amine is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde | 0.3 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | 4-amino-1-methylpiperidine | 0.348 g | NC1CCN(CC1)C | C6H14N2
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(1-methylpiperidin-4-yl)amine | 0.28 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNC1CCN(CC1)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C31H36N6O4S
